// File: TIELO.spi
// Created: Tue Apr 29 10:44:39 2025
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/TIELO.pex.spice"
subckt TIELO (  GND VDD YN )
// 
// YN	YN
// VDD	VDD
// GND	GND
M0_noxref ( N_YN_M0_noxref_d N_noxref_4_M0_noxref_g N_GND_M0_noxref_s \
 noxref_45 ) NMOS l=0.163346 w=2.31104 m=1
M1_noxref ( N_noxref_4_M1_noxref_d N_noxref_4_M1_noxref_g N_VDD_M1_noxref_s \
 noxref_43 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M2_noxref ( N_VDD_M2_noxref_d N_noxref_4_M2_noxref_g N_noxref_4_M1_noxref_d \
 noxref_43 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/TIELO.pxi.spice"
// 
ends TIELO
// 
// 
